US07786108B2
Step 2. Preparation of (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
To a solution of compound (S)-5-[(3,5-bis-trifluoromethyl-benzyl)-(3-oxo-butyryl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester (600 mg, 0.916 mmol) in methanol (5 mL) at 0° C., add hydroxylamine hydrochloride (96 mg, 1.37 mmol) and sodium acetate (3 mg, 0.046 mmol). Heat the reaction mixture under reflux for 4 h. Cool and remove the solvents under reduced pressure. Dilute the residue with ethyl acetate and brine. Separate the layers and dry the organic phase over sodium sulfate, filter and concentrate under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate (20:1 to 3:1) to afford the title compound as an off-white solid (100 mg, 17%). 1H NMR (CDCl3, 300 MHz) δ 1.10-2.10 (m, 16H), 2.21 (s, 3H), 2.54 (s, 3H), 4.22-4.83 (m, 3H), 6.89-6.92 (m, 1H), 7.36-7.89 (m, 4H); ESI MS m/z 652 [C30H30F9N3O3+H]+.

reactant | (S)-5-[(3,5-bis-trifluoromethyl-benzyl)-(3-oxo-butyryl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.916 mmol, 600 mg | C(C)(C)(C)OC(=O)N1C2=C([C@H](CCC1)N(C(CC(C)=O)=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C30H31F9N2O4
reactant | hydroxylamine hydrochloride | 1.37 mmol, 96 mg | Cl.NO
reactant | sodium acetate | 0.046 mmol, 3 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (S)-5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 100 mg, 17% | C(C)(C)(C)OC(=O)N1C2=C([C@H](CCC1)N(C1=CC(=NO1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C30H30F9N3O3
